### PR TITLE
[Merged by Bors] - chore(Order/Minimal): use `to_dual`

### PR DESCRIPTION
**Pull request by JovanGerb**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Minimal.lean [hunk 1]
```diff
@@ -52,319 +52,220 @@ variable {ι α β : Type*}
...
-    ∃ b, a ≤ b ∧ Maximal P b := exists_minimal_le_of_wellFoundedLT (α := αᵒᵈ) P a ha
-
-end WellFoundedGT
 end Preorder
 
 section PartialOrder
 
 variable [PartialOrder α]
 
+@[to_dual eq_of_le]
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean]: Fix the argument name:
```suggestion
@[to_dual (rename := hge → hle) eq_of_le]
```

File: Mathlib/Order/Minimal.lean [hunk 2]
```diff
@@ -52,319 +52,220 @@ variable {ι α β : Type*}
...
 theorem Minimal.eq_of_ge (hx : Minimal P x) (hy : P y) (hge : y ≤ x) : x = y :=
   (hx.2 hy hge).antisymm hge
 
+@[to_dual eq_of_ge]
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean]: Fix the argument name:
```suggestion
@[to_dual (rename := hle → hge) eq_of_ge]
```

File: Mathlib/Order/Minimal.lean [hunk 3]
```diff
@@ -633,60 +491,39 @@ theorem minimal_apply_mem_inter_range_iff :
   simp_rw [f.le_iff_le]
   exact h.le_of_le hyt
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean:491]: In the first place, `simp`s here are overkill; use `Set.mem_range_self`:
```suggestion
@[to_dual]
theorem minimal_apply_mem_inter_range_iff :
    Minimal (· ∈ t ∩ range f) (f x) ↔ Minimal (fun x ↦ f x ∈ t) x := by
  refine ⟨fun h ↦ ⟨h.prop.1, fun y hy ↦ ?_⟩, fun h ↦ ⟨⟨h.prop, mem_range_self x⟩, ?_⟩⟩
  · rw [← f.le_iff_le, ← f.le_iff_le]
    exact h.le_of_le ⟨hy, mem_range_self y⟩
  rintro _ ⟨hyt, ⟨y, rfl⟩⟩
  simp_rw [f.le_iff_le]
  exact h.le_of_le hyt
```

File: Mathlib/Order/Minimal.lean [hunk 4]
```diff
@@ -633,60 +491,39 @@ theorem minimal_apply_mem_inter_range_iff :
...
 
-theorem maximal_apply_mem_inter_range_iff :
-    Maximal (· ∈ t ∩ range f) (f x) ↔ Maximal (fun x ↦ f x ∈ t) x :=
-  f.dual.minimal_apply_mem_inter_range_iff
-
+@[to_dual maximal_apply_iff] -- TODO: make the names consistent
 theorem minimal_apply_mem_iff (ht : t ⊆ Set.range f) :
     Minimal (· ∈ t) (f x) ↔ Minimal (fun x ↦ f x ∈ t) x := by
   rw [← f.minimal_apply_mem_inter_range_iff, inter_eq_self_of_subset_left ht]
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean]: Small TODOs tend to be left unaddressed, so finish this in this PR:
```suggestion
@[to_dual]
theorem minimal_apply_mem_iff (ht : t ⊆ Set.range f) :
    Minimal (· ∈ t) (f x) ↔ Minimal (fun x ↦ f x ∈ t) x := by
  rw [← f.minimal_apply_mem_inter_range_iff, inter_eq_self_of_subset_left ht]

@[deprecated (since := "2026-04-07")] alias maximal_apply_iff := maximal_apply_mem_iff

```

File: Mathlib/Order/Minimal.lean [hunk 5]
```diff
@@ -704,40 +542,29 @@ def mapSetOfMaximal (f : s ≃o t) : {x | Maximal (· ∈ s) x} ≃o {x | Maxima
...
-  __ := (show s ≃o ofDual ⁻¹' t from f).mapSetOfMaximal
-
 end OrderIso
 
 end Image
 section Interval
 
 variable [PartialOrder α] {a b : α}
 
+@[to_dual]
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean:560]: Fix the argument name:
```suggestion
@[to_dual (rename := a → b, b → a) (reorder := a b)]
```

File: Mathlib/Order/Minimal.lean [hunk 6]
```diff
@@ -704,40 +542,29 @@ def mapSetOfMaximal (f : s ≃o t) : {x | Maximal (· ∈ s) x} ≃o {x | Maxima
...
 theorem minimal_mem_Icc (hab : a ≤ b) : Minimal (· ∈ Icc a b) x ↔ x = a :=
   minimal_iff_eq ⟨rfl.le, hab⟩ (fun _ ↦ And.left)
 
-theorem maximal_mem_Icc (hab : a ≤ b) : Maximal (· ∈ Icc a b) x ↔ x = b :=
-  maximal_iff_eq ⟨hab, rfl.le⟩ (fun _ ↦ And.right)
-
+@[to_dual]
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean:564]: Fix the argument name:
```suggestion
@[to_dual (rename := a → b, b → a) (reorder := a b)]
```

File: Mathlib/Order/Minimal.lean [hunk 7]
```diff
@@ -52,319 +52,220 @@ variable {ι α β : Type*}
...
   tauto
 
-@[simp] theorem maximal_subtype {x : Subtype Q} :
-    Maximal (fun x ↦ P x.1) x ↔ Maximal (P ⊓ Q) x :=
-  minimal_subtype (α := αᵒᵈ)
-
+@[to_dual]
 theorem maximal_true_subtype {x : Subtype P} : Maximal (fun _ ↦ True) x ↔ Maximal P x := by
   obtain ⟨x, hx⟩ := x
   simp [Maximal, hx]
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean]: A few `Maximal` lemmas among many `Minimal` lemmas seem unnatural. Let's unify them to `Minimal`:
```suggestion
theorem minimal_true_subtype {x : Subtype P} : Minimal (fun _ ↦ True) x ↔ Minimal P x := by
  obtain ⟨x, hx⟩ := x
  simp [Minimal, hx]
```

File: Mathlib/Order/Minimal.lean [hunk 8]
```diff
@@ -488,36 +381,28 @@ section Preorder
...
+@[to_dual]
 theorem setOf_minimal_subset (s : Set α) : {x | Minimal (· ∈ s) x} ⊆ s :=
   sep_subset ..
 
-theorem setOf_maximal_subset (s : Set α) : {x | Maximal (· ∈ s) x} ⊆ s :=
-  sep_subset ..
-
+@[to_dual]
 theorem Set.Subsingleton.maximal_mem_iff (h : s.Subsingleton) : Maximal (· ∈ s) x ↔ x ∈ s := by
   obtain (rfl | ⟨x, rfl⟩) := h.eq_empty_or_singleton <;> simp
```
Comment (Komyyy) [inline Mathlib/Order/Minimal.lean]: Same here:
```suggestion
theorem Set.Subsingleton.minimal_mem_iff (h : s.Subsingleton) : Minimal (· ∈ s) x ↔ x ∈ s := by
  obtain (rfl | ⟨x, rfl⟩) := h.eq_empty_or_singleton <;> simp
```

**Review by Komyyy — CHANGES_REQUESTED** [review]
Thank you for your contributions!

File: Mathlib/Order/Minimal.lean (hunk 4 above)
Comment (JovanGerb) [reply Mathlib/Order/Minimal.lean]: I am not so sure if `maximal_apply_mem_iff` is the right name either. But there are a bunch more names around here that are dodgy, so I'll leave it like this for now.

File: Mathlib/Order/Minimal.lean (hunk 5 above)
Comment (JovanGerb) [reply Mathlib/Order/Minimal.lean:560]: Since `a` and `b` are implicit arguments, I think we don't need to worry about their names being swapped. This same pattern appears in very many other uses of `to_dual`

Comment (Komyyy) [reply Mathlib/Order/Minimal.lean:560]: Currently the parameter `(hab : a \le b)` is dualized to `(hab : b \le a)`, it seems unnatural.

Comment (JovanGerb) [reply Mathlib/Order/Minimal.lean:560]: Yes, I know, but my point is that we would have to fix many more theorems than just this theorem if we decide that this is really a problem.

Comment (Komyyy) [reply Mathlib/Order/Minimal.lean:560]: OK, I see.

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer merge
